US04127572
Preparation of 6-chloro-3,4-dihydro-4-hydroxy-3-(2-hydroxyethyl)-4-phenyl-2(1H)-quinazolinethione
Using the general procedure already described above, a solution containing 10.92 grams (40 moles) of 2-benzoyl-4-chlorophenylisothiocyanate in about 100 ml of ethyl ether was added dropwise to a stirred solution of 2.83 grams (44 moles) of ethanolamine in 200 ml of isopropanol. The reaction mixture was stirred overnight. The 6-chloro-3,4-dihydro-4-hydroxy-3-(2-hydroxyethyl)-4-phenyl-2(1H)-quinazolinethione precipitated as a white solid. The product was washed with a mixture of ethyl ether and isopropanol to give the final product which had a melting point of 238°-240° C. Final yield was 93%.

reactant | 2-benzoyl-4-chlorophenylisothiocyanate | 40 moles, 10.92 grams | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N=C=S | C14H8ClNOS
reactant | ethanolamine | 44 moles, 2.83 grams | C(O)CN | C2H7NO
solvent | ethyl ether | about 100 ml | C(C)OCC | C4H10O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 6-chloro-3,4-dihydro-4-hydroxy-3-(2-hydroxyethyl)-4-phenyl-2(1H)-quinazolinethione | yield was 93% | ClC=1C=C2C(N(C(NC2=CC1)=S)CCO)(C1=CC=CC=C1)O | C16H15ClN2O2S
